US09145435B2
Charge benzyl 2-(isobutylcarbamoylamino)acetate (200 g; 98.1% assay), dry Pd/C (20 g; 10% w/w), and isopropyl alcohol (2000 ml) into an autoclave. Degas under vacuum and purge with hydrogen three times. Stir at 60° C. under 50-60 psi of H2 for 4 hours. Cool the mixture to 20-30° C. and filter through diatomaceous earth and concentrate the filtrate under reduced pressure at 45-50° C. to 1-2 Vol. Add acetonitrile (1000 ml) and concentrate under reduced pressure at 45-50° C. to 2-3 Vol. Cool the mixture to 5-10° C. and filter. Dry the cake under reduced pressure at 45-50° C. to give of 2-(isobutylcarbamoylamino)acetic acid (112 g; 95.2% assay; 82.5% yield).

reactant | benzyl 2-(isobutylcarbamoylamino)acetate | 200 g | C(C(C)C)NC(=O)NCC(=O)OCC1=CC=CC=C1 | C14H20N2O3
catalyst | Pd/C | 20 g | [Pd] | Pd
solvent | isopropyl alcohol | 2000 ml | C(C)(C)O | C3H8O
product | 2-(isobutylcarbamoylamino)acetic acid | 112 g, 82.5% yield | C(C(C)C)NC(=O)NCC(=O)O | C7H14N2O3
